US09023858B2
G) 2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3H-pyrimido[5,4-b][1,4]thiazine-4,7(6H,8H)-dione
A solution of 6-amino-5-bromo-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one (0.1 g) and mercaptoacetic acid (0.168 mL) in toluene (2 mL) was stirred at 170° C. for 2 hr under microwave irradiation. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.04 g).

reactant | 6-amino-5-bromo-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one | 0.1 g | NC1=C(C(N(C(=N1)SCC)C1=CC=C(C=C1)OCC(F)(F)F)=O)Br | C14H13BrF3N3O2S
reactant | mercaptoacetic acid | 0.168 mL | SCC(=O)O | C2H4O2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3H-pyrimido[5,4-b][1,4]thiazine-4,7(6H,8H)-dione | 0.04 g | C(C)SC=1N(C(C=2SCC(NC2N1)=O)=O)C1=CC=C(C=C1)OCC(F)(F)F | C16H14F3N3O3S2
